US06982274B2
3-Benzo[b]thiophen-2-yl-4-methoxy-1-trityl-1H-indazol-5-ylamine
A total of 939 mg of (3-benzo[b]thiophen-2-yl-4-methoxy-1-trityl-1H-indazol-5-yl)-carbamic acid benzyl ester obtained in Production Example II-39-a was dissolved in 20 ml of a 2:1 solvent mixture of ethyl acetate and methanol. 300 mg of 20% palladium hydroxide-carbon was added thereto, and the mixture was subjected to catalytic hydrogenation at room temperature and at normal atmospheric pressure in the presence of. The reaction mixture was filtrated through Celite, and the solvent was removed, to give 458 mg of the title compound.

reactant | (3-benzo[b]thiophen-2-yl-4-methoxy-1-trityl-1H-indazol-5-yl)-carbamic acid benzyl ester | 939 mg | C(C1=CC=CC=C1)OC(NC=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=C(S1)C=CC=C2)OC)=O | C43H33N3O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide carbon | 300 mg | [OH-].[Pd+2].[OH-].[C]
product | 3-Benzo[b]thiophen-2-yl-4-methoxy-1-trityl-1H-indazol-5-ylamine | 458 mg | S1C2=C(C=C1C1=NN(C3=CC=C(C(=C13)OC)N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2 | C35H27N3OS
